US05747498
(6,7-Dimethoxyquinazolin-4-yl)-(3-ethynylphenyl)-amine Hydrochloride
4-Chloro-6,7-dimethoxyquinazoline (250 mg, 1.12 mmol) and 3-ethynyl-aniline (137 mg, 1.17 mmol) were refluxed in 10 mL of isopropyl alcohol for 0.5 hour, cooled and filtered to afford solid title product which was washed with 10 mL of isopropyl alcohol and dried in vacuo, at 70° C., 338 mg (99%); mp 269°-270° C.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 1.12 mmol, 250 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-ethynyl-aniline | 1.17 mmol, 137 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
product | (6,7-Dimethoxyquinazolin-4-yl)-(3-ethynylphenyl)-amine Hydrochloride | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=CC=C1)C#C | InChI=1S/C18H15N3O2.ClH/c1-4-12-6-5-7-13(8-12)21-18-14-9-16(22-2)17(23-3)10-15(14)19-11-20-18;/h1,5-11H,2-3H3,(H,19,20,21);1H
